US06103910
182 mg (0.3 mmol) (R)-1-[8-[(R)-2-benzyloxycarbonyl-pyrrolidin-1-yl]-2,7-dimethoxy-8-oxo-octanoyl]-pyrrolidine-2-carboxylic acid benzyl ester in 10 ml methanol were hydrogenated in the presence of 30 mg 5% Pd on carbon. Filtration and evaporation of the solvent yielded 109 mg (84%) (R)-1-[8-[(R)-2- carboxy-pyrrolidin-1-yl]-2,7-dimethoxy-8-oxo-octanoyl]-pyrrolidine-2-carboxylic acid as colorless oil. MS: 427 (M-H)-.

reactant | (R)-1-[8-[(R)-2-benzyloxycarbonyl-pyrrolidin-1-yl]-2,7-dimethoxy-8-oxo-octanoyl]-pyrrolidine-2-carboxylic acid benzyl ester | 0.3 mmol, 182 mg | C(C1=CC=CC=C1)OC(=O)[C@@H]1N(CCC1)C(C(CCCCC(C(=O)N1[C@H](CCC1)C(=O)OCC1=CC=CC=C1)OC)OC)=O | C34H44N2O8
solvent | methanol | 10 ml | CO | CH4O
catalyst | Pd on carbon | 30 mg | [Pd] | Pd
product | (R)-1-[8-[(R)-2- carboxy-pyrrolidin-1-yl]-2,7-dimethoxy-8-oxo-octanoyl]-pyrrolidine-2-carboxylic acid | 109 mg, 84% | C(=O)(O)[C@@H]1N(CCC1)C(C(CCCCC(C(=O)N1[C@H](CCC1)C(=O)O)OC)OC)=O | C20H32N2O8
